US06372777B1
Preparation of 1-(3-Iodophenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
m-Iodoaniline (5 mmol, 1.1 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The residual oil was resuspended in methylene chloride, then washed with water, 5% sodium bicarbonate, and brine. The solids were separated, and the solvents removed under vacuum. The resulting solid was recrystallized in ethanol. A portion of the material did not dissolve, and was separated by filtration. Both the recrystallized and filtered material yielded the named product (m.p. 142.6° C.-144° C).

reactant | m-Iodoaniline | 5 mmol, 1.1 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3-Iodophenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)I)C1=CC=CC=C1 | C20H18INO2
